C1 (net79 net88) C=9.4E-9
R2 ( net56 net31)  R=6.2E6
T3 ( net31 net71 0 0)  nfet  L=6.20E-6 W=0.49E-6
T4 ( net87 net71 0 0)  nfet  L=6.20E-6 W=0.49E-6
T5 ( net38 net31 net87 0)  nfet  L=6.20E-6 W=0.49E-6
T6 (net35 net66 net66 0) pfet L=4.36E-6 W=3.80E-6
C7 (net37 net47) C=7.1E-6
R8 ( net57 net40)  R=4.1E6
T9 ( net40 net40 0 0)  nfet  L=4.37E-6 W=8.36E-6
T10 ( net5 net40 0 0)  nfet  L=4.37E-6 W=8.36E-6
T11 (net69 net61 net61 0) nfet L=3.59E-6 W=4.81E-6
T12 (net20 net75 net75 0) pfet L=3.86E-6 W=3.34E-6
T13 (net73 net24 net24 0) nfet L=5.35E-6 W=6.53E-6
T14 (0 net46 net46 0) nfet L=0.26E-6 W=0.41E-6
R15 (net59 net27) R=4.8E1
C16 (net74 net50) C=9.9E-8
T17 (net59 net78 net78 0) pfet L=7.06E-6 W=9.78E-6
R18 (net36 net29) R=0.3E6
R19 (net72 net18) R=0.5E6
C20 (net9 net13) C=5.1E-10
C21 (net54 net4) C=6.1E-13
C22 (net66 net22) C=2.5E-12
T23 (0 net43 net43 0) pfet L=1.97E-6 W=9.09E-6
R24 (net14 net70) R=4.8E0
T25 (net30 net84 net84 0) pfet L=5.94E-6 W=1.24E-6
C26 (net10 net66) C=9.9E-7
R27 (net74 net54) R=4.3E1
T28 (0 net9 net9 0) pfet L=9.55E-6 W=0.20E-6
R29 (net11 net74) R=1.0E5
C30 (net5 net65) C=1.4E-8
C31 (net60 net3) C=0.4E-6
R32 (0 net70) R=8.0E0
T33 (net13 net83 net83 0) nfet L=8.71E-6 W=3.41E-6
R34 (net69 net15) R=5.9E3
C35 (net10 net81) C=6.2E-5
T36 (net6 net56 net56 0) nfet L=9.39E-6 W=1.17E-6
R37 (net27 net74) R=9.2E2
T38 (net46 net14 net14 0) pfet L=4.71E-6 W=4.53E-6
C39 (net62 net84) C=7.7E-13
T40 (net14 net56 net56 0) pfet L=4.55E-6 W=4.04E-6
T41 (net7 net2 net2 0) pfet L=0.20E-6 W=1.42E-6
R42 (net77 net22) R=3.8E5
T43 (net60 net64 net64 0) nfet L=7.84E-6 W=5.08E-6
T44 (net34 net85 net85 0) nfet L=1.77E-6 W=0.24E-6
T45 (net66 net53 net53 0) pfet L=2.56E-6 W=4.86E-6
T46 (net14 net72 net72 0) pfet L=8.94E-6 W=9.25E-6
T47 (net83 net84 net84 0) pfet L=4.13E-6 W=3.00E-6
T48 (net90 net19 net19 0) nfet L=4.63E-6 W=6.45E-6
T49 (net51 net45 net45 0) pfet L=6.05E-6 W=1.35E-6
R50 (net41 net9) R=6.3E6
C51 (net84 net38) C=6.0E-11
C52 (net84 net79) C=10.0E-12
T53 (net47 net65 net65 0) nfet L=9.45E-6 W=5.22E-6
C54 (0 net12) C=0.8E-6
R55 (net60 net42) R=3.3E1
C56 (net37 net2) C=6.9E-5
T57 (net89 net81 net81 0) nfet L=6.20E-6 W=1.48E-6
T58 (net10 net79 net79 0) nfet L=3.71E-6 W=6.65E-6
T59 (net54 net33 net33 0) pfet L=7.40E-6 W=5.82E-6
R60 (net66 net27) R=6.3E3
C61 (net77 net19) C=8.0E-8
T62 (net43 net8 net8 0) nfet L=1.78E-6 W=1.81E-6
R63 (net82 net63) R=1.7E2
T64 (net43 net80 net80 0) nfet L=9.14E-6 W=8.80E-6
T65 (net41 net11 net11 0) nfet L=4.29E-6 W=8.68E-6
T66 (net5 net51 net51 0) pfet L=7.95E-6 W=9.19E-6
T67 (net9 net73 net73 0) pfet L=0.84E-6 W=3.23E-6
T68 (net65 net4 net4 0) nfet L=1.15E-6 W=5.53E-6
T69 (net63 net47 net47 0) nfet L=5.58E-6 W=7.14E-6
T70 (net82 net59 net59 0) nfet L=9.72E-6 W=4.45E-6
T71 (net77 net23 net23 0) nfet L=2.35E-6 W=6.85E-6
T72 (net30 net2 net2 0) pfet L=0.59E-6 W=2.66E-6
T73 (net48 net80 net80 0) nfet L=6.38E-6 W=5.65E-6
R74 (net52 net50) R=5.4E2
T75 (net39 net4 net4 0) pfet L=7.19E-6 W=6.53E-6
R76 (net22 net62) R=1.8E1
T77 (0 net4 net4 0) pfet L=3.48E-6 W=0.36E-6
C78 (vdd! net17) C=0.7E-7
T79 (net1 net66 net66 0) nfet L=3.30E-6 W=8.41E-6
R80 (net59 net62) R=5.0E1
T81 (net78 net11 net11 0) nfet L=1.61E-6 W=8.48E-6
T82 (net39 vdd! vdd! 0) nfet L=9.94E-6 W=7.80E-6
R83 (net4 net84) R=3.2E6
T84 (net33 net79 net79 0) pfet L=1.89E-6 W=8.13E-6
T85 (net62 net41 net41 0) pfet L=6.91E-6 W=8.32E-6
T86 (vdd! net63 net63 0) nfet L=7.40E-6 W=7.88E-6
C87 (net27 net3) C=6.3E-5
C88 (net7 net29) C=3.8E-12
R89 (net66 net64) R=6.1E6
C90 (net83 net12) C=9.4E-9
R91 (net38 vdd!) R=0.7E5
T92 (net59 net81 net81 0) pfet L=7.88E-6 W=9.56E-6
T93 (net28 net23 net23 0) pfet L=2.95E-6 W=1.79E-6
R94 (net81 net89) R=1.6E6
T95 (net74 net18 net18 0) nfet L=1.18E-6 W=1.03E-6
T96 (net81 net43 net43 0) pfet L=3.57E-6 W=1.45E-6
T97 (net54 vdd! vdd! 0) nfet L=9.72E-6 W=6.06E-6
R98 (net11 net19) R=0.5E6
T99 (net50 0 0 0) nfet L=4.91E-6 W=6.84E-6
R100 (net80 vdd!) R=2.1E3
T101 (0 net66 net66 0) pfet L=0.11E-6 W=3.33E-6
T102 (net37 net74 net74 0) nfet L=0.58E-6 W=1.25E-6
R103 (net27 net56) R=7.5E0
T104 (net47 net36 net36 0) nfet L=8.97E-6 W=5.77E-6
T105 (net59 net78 net78 0) pfet L=3.99E-6 W=7.02E-6
T106 (net55 net80 net80 0) nfet L=6.48E-6 W=1.65E-6
C107 (net41 net38) C=9.6E-8
T108 (net65 net55 net55 0) nfet L=0.64E-6 W=7.33E-6
R109 (net76 vdd!) R=7.8E1
T110 (0 net80 net80 0) nfet L=2.92E-6 W=2.14E-6
T111 (net27 net85 net85 0) pfet L=6.53E-6 W=5.57E-6
C112 (net58 net88) C=7.5E-13
T113 (net69 vdd! vdd! 0) nfet L=1.24E-6 W=5.85E-6
R114 (net73 net44) R=10.0E6
T115 (net63 net23 net23 0) nfet L=3.36E-6 W=3.99E-6
T116 (vdd! net32 net32 0) nfet L=3.10E-6 W=5.93E-6
T117 (net83 net52 net52 0) pfet L=8.44E-6 W=8.75E-6
R118 (net55 net69) R=8.8E2
T119 (net58 net30 net30 0) pfet L=2.18E-6 W=1.61E-6
T120 (net75 net2 net2 0) nfet L=6.96E-6 W=1.05E-6
C121 (net3 net89) C=9.0E-11
C122 (net59 0) C=1.7E-9
T123 (net52 net21 net21 0) nfet L=0.92E-6 W=1.39E-6
R124 (net54 net7) R=4.4E5
T125 (net76 net86 net86 0) nfet L=8.38E-6 W=4.97E-6
T126 (net86 0 0 0) nfet L=7.58E-6 W=7.99E-6
R127 (net30 net72) R=3.4E4
T128 (net54 net42 net42 0) pfet L=5.76E-6 W=7.10E-6
T129 (net67 0 0 0) pfet L=7.12E-6 W=9.91E-6
T130 (net1 net26 net26 0) nfet L=2.90E-6 W=4.90E-6
T131 (net33 net22 net22 0) nfet L=3.04E-6 W=8.83E-6
T132 (net82 net7 net7 0) nfet L=7.39E-6 W=1.18E-6
T133 (net68 net89 net89 0) pfet L=3.83E-6 W=8.43E-6
C134 (net6 net67) C=4.6E-9
T135 (net83 net14 net14 0) nfet L=6.19E-6 W=5.20E-6
T136 (net5 net47 net47 0) nfet L=9.10E-6 W=8.42E-6
C137 (net5 net36) C=7.9E-11
R138 (net70 net47) R=0.4E5
T139 (net43 net9 net9 0) nfet L=8.47E-6 W=9.27E-6
T140 (net33 vdd! vdd! 0) nfet L=7.82E-6 W=4.39E-6
T141 (net47 0 0 0) nfet L=9.78E-6 W=6.46E-6
T142 (net46 vdd! vdd! 0) pfet L=7.59E-6 W=3.56E-6
R143 (net32 net12) R=2.4E2
R144 (net63 net11) R=3.8E5
C145 (net52 vdd!) C=3.0E-6
T146 (net65 net18 net18 0) nfet L=0.88E-6 W=1.27E-6
R147 (net19 net10) R=8.1E0
T148 (net36 net69 net69 0) pfet L=4.28E-6 W=2.93E-6
T149 (net23 net30 net30 0) nfet L=6.44E-6 W=1.92E-6
T150 (net29 net88 net88 0) nfet L=5.06E-6 W=1.40E-6
T151 (net34 net70 net70 0) nfet L=1.92E-6 W=7.94E-6
R152 (net67 net52) R=6.8E6
C153 (net5 0) C=5.6E-13
T154 (0 net14 net14 0) nfet L=3.95E-6 W=1.54E-6
R155 (net59 net50) R=5.8E3
T156 (net2 net8 net8 0) pfet L=3.44E-6 W=9.25E-6
T157 (net60 net58 net58 0) nfet L=1.39E-6 W=0.93E-6
T158 (net73 net89 net89 0) nfet L=3.21E-6 W=4.03E-6
T159 (net2 net52 net52 0) pfet L=6.22E-6 W=0.50E-6
R160 (net43 net56) R=3.5E3
T161 (net58 net44 net44 0) pfet L=1.03E-6 W=1.97E-6
R162 (net35 net41) R=7.0E2
T163 (net83 net61 net61 0) nfet L=0.87E-6 W=4.60E-6
C164 (net66 net58) C=3.3E-7
C165 (net68 net18) C=4.9E-12
C166 (net66 net62) C=3.2E-8
R167 (net69 0) R=1.5E4
T168 (net21 net3 net3 0) pfet L=5.27E-6 W=2.01E-6
R169 (net51 net26) R=5.4E5
C170 (vdd! net86) C=9.2E-11
T171 (net79 net82 net82 0) pfet L=8.08E-6 W=0.63E-6
C172 (net3 0) C=2.4E-9
R173 (net14 net46) R=3.7E2
T174 (net82 net60 net60 0) nfet L=9.46E-6 W=6.61E-6
T175 (net57 net23 net23 0) nfet L=1.25E-6 W=8.13E-6
R176 (net45 net72) R=0.1E3
R177 (net75 net26) R=4.1E0
T178 (net79 vdd! vdd! 0) nfet L=3.95E-6 W=6.95E-6
T179 (net47 net44 net44 0) nfet L=2.48E-6 W=4.13E-6
C180 (net28 net32) C=9.2E-10
T181 (net16 net70 net70 0) pfet L=9.51E-6 W=9.72E-6
T182 (net43 net7 net7 0) nfet L=4.90E-6 W=7.15E-6
T183 (net7 net45 net45 0) nfet L=1.77E-6 W=8.30E-6
T184 (net7 net70 net70 0) pfet L=4.99E-6 W=2.19E-6
R185 (net50 net65) R=3.7E6
T186 (net3 net59 net59 0) nfet L=5.64E-6 W=9.85E-6
T187 (net67 net81 net81 0) pfet L=7.49E-6 W=9.35E-6
C188 (net53 vdd!) C=9.2E-6
T189 (net32 net57 net57 0) pfet L=4.42E-6 W=6.78E-6
R190 (vdd! net70) R=8.2E5
C191 (net43 net39) C=5.4E-6

