T1 ( net4 net4 0 0)  nfet  L=1.66E-6 W=0.72E-6
T2 ( net15 net4 0 0)  nfet  L=1.66E-6 W=0.72E-6
R3 ( net15 net12)  R=6.1E6
T4 (net13 net4 net4 0) pfet L=8.20E-6 W=1.02E-6
T5 ( net8 net8 0 0)  nfet  L=2.21E-6 W=8.67E-6
T6 ( net3 net8 0 0)  nfet  L=2.21E-6 W=8.67E-6
R7 ( net3 net14)  R=1.7E1
R8 (net13 0) R=0.2E2
R9 (net12 net5) R=7.5E3
T10 (net2 net1 net1 0) pfet L=9.53E-6 W=0.17E-6
T11 (vdd! net8 net8 0) pfet L=8.91E-6 W=5.47E-6
T12 (net8 vdd! vdd! 0) pfet L=1.44E-6 W=5.50E-6
C13 (net9 0) C=6.6E-8
C14 (net7 net2) C=8.5E-10
T15 (net10 net8 net8 0) nfet L=3.75E-6 W=5.44E-6
T16 (net14 net8 net8 0) pfet L=5.48E-6 W=5.12E-6
T17 (net13 net1 net1 0) nfet L=0.63E-6 W=4.01E-6
C18 (net4 net11) C=4.4E-8
T19 (net7 net7 net7 0) nfet L=0.45E-6 W=1.85E-6
T20 (net12 vdd! vdd! 0) pfet L=5.82E-6 W=5.01E-6
T21 (net6 net6 net6 0) pfet L=4.17E-6 W=7.55E-6
R22 (net9 net14) R=0.6E5
T23 (net10 net8 net8 0) nfet L=6.48E-6 W=1.69E-6
R24 (net4 net6) R=0.1E2
T25 (net12 net11 net11 0) nfet L=9.71E-6 W=1.84E-6
R26 (net11 net6) R=0.7E0
T27 (net10 net9 net9 0) nfet L=7.96E-6 W=4.42E-6
T28 (net5 net13 net13 0) pfet L=0.42E-6 W=3.63E-6
T29 (net12 net9 net9 0) pfet L=4.21E-6 W=3.92E-6
C30 (net5 net11) C=5.1E-8
R31 (net14 net5) R=9.4E0
T32 (net13 net12 net12 0) nfet L=6.31E-6 W=9.49E-6
C33 (net4 net5) C=2.4E-10
T34 (net10 net11 net11 0) pfet L=9.55E-6 W=8.53E-6
R35 (net4 net8) R=1.6E5
C36 (net2 net13) C=7.0E-8
R37 (net6 net1) R=5.4E3
R38 (net7 0) R=0.4E3
C39 (net12 vdd!) C=6.8E-9
C40 (net9 net12) C=5.7E-11
R41 (net9 net10) R=8.4E4
T42 (net7 net5 net5 0) nfet L=0.25E-6 W=1.94E-6
T43 (net10 net13 net13 0) pfet L=6.85E-6 W=2.79E-6
C44 (net10 net12) C=4.9E-13
T45 (net13 net9 net9 0) nfet L=4.79E-6 W=3.42E-6
R46 (net12 net14) R=7.1E4
T47 (net2 vdd! vdd! 0) pfet L=1.24E-6 W=4.14E-6
C48 (net12 net9) C=0.9E-7
C49 (net14 net11) C=5.9E-8
T50 (vdd! net14 net14 0) pfet L=7.04E-6 W=1.45E-6
T51 (net10 net6 net6 0) pfet L=0.67E-6 W=3.06E-6
T52 (net12 net13 net13 0) nfet L=5.34E-6 W=4.19E-6

