C1 (net7 net26) C=0.4E-11
R2 ( net3 net7)  R=4.0E3
T3 ( net7 net23 0 0)  nfet  L=4.42E-6 W=2.39E-6
T4 ( net20 net23 0 0)  nfet  L=4.42E-6 W=2.39E-6
T5 ( 0 net7 net20 0)  nfet  L=4.42E-6 W=2.39E-6
C6 (net12 net2) C=2.2E-12
T7 (0 net28 net28 0) nfet L=6.46E-6 W=5.27E-6
R8 ( net13 net9)  R=7.6E0
T9 ( net9 net9 net14 vdd!)  pfet  L=1.99E-6 W=2.19E-6
T10 ( net14 net22 vdd! vdd!)  pfet  L=1.99E-6 W=2.19E-6
T11 ( net22 net22 vdd! vdd!)  pfet  L=1.99E-6 W=2.19E-6
T12 ( net5 net9 net22 vdd!)  pfet  L=1.99E-6 W=2.19E-6
T13 (net26 net8 net8 0) nfet L=7.88E-6 W=9.16E-6
R14 (net15 net13) R=5.6E6
T15 (net13 net4 net4 0) nfet L=4.73E-6 W=3.95E-6
C16 (vdd! net32) C=2.2E-6
R17 (net15 net25) R=9.0E5
R18 (net17 0) R=8.0E1
R19 (net5 vdd!) R=8.2E6
C20 (net6 net12) C=4.3E-8
C21 (net13 0) C=6.5E-12
C22 (net26 net25) C=9.8E-12
R23 (net32 net12) R=8.5E0
C24 (net27 net29) C=8.8E-7
T25 (net5 0 0 0) pfet L=8.53E-6 W=8.76E-6
R26 (net32 net18) R=3.9E5
T27 (net8 vdd! vdd! 0) pfet L=5.35E-6 W=9.55E-6
C28 (net28 net4) C=4.1E-9
T29 (net3 net15 net15 0) nfet L=8.18E-6 W=6.10E-6
T30 (net32 net16 net16 0) pfet L=9.36E-6 W=8.20E-6
T31 (net5 net16 net16 0) nfet L=8.85E-6 W=3.78E-6
R32 (net10 net30) R=7.5E2
C33 (net19 net24) C=1.2E-14
T34 (net5 net28 net28 0) pfet L=8.71E-6 W=3.91E-6
C35 (net19 net1) C=3.8E-6
T36 (net17 net8 net8 0) pfet L=7.20E-6 W=7.97E-6
T37 (vdd! net11 net11 0) pfet L=9.03E-6 W=6.19E-6
R38 (net30 net2) R=9.4E5
T39 (0 0 0 0) pfet L=9.33E-6 W=5.22E-6
T40 (net13 net4 net4 0) nfet L=4.70E-6 W=7.55E-6
C41 (net3 net8) C=7.4E-7
T42 (net28 net24 net24 0) pfet L=1.18E-6 W=9.69E-6
R43 (net10 net18) R=1.4E1
T44 (net2 net11 net11 0) pfet L=6.66E-6 W=0.88E-6
T45 (net32 0 0 0) pfet L=5.86E-6 W=5.99E-6
C46 (net19 net26) C=6.9E-12
T47 (net24 net27 net27 0) nfet L=7.72E-6 W=0.73E-6
R48 (net3 net15) R=7.8E1
T49 (net31 net26 net26 0) nfet L=1.24E-6 W=1.23E-6
T50 (net4 net13 net13 0) nfet L=4.59E-6 W=4.15E-6
C51 (net21 net17) C=1.3E-8
T52 (net2 net16 net16 0) nfet L=2.50E-6 W=7.32E-6
R53 (net26 net24) R=3.9E5
T54 (net29 net4 net4 0) nfet L=8.70E-6 W=3.17E-6
R55 (net27 net16) R=2.8E3
T56 (net15 net32 net32 0) pfet L=9.74E-6 W=8.62E-6
T57 (net17 net13 net13 0) pfet L=8.69E-6 W=8.53E-6
C58 (net2 net3) C=0.5E-5
R59 (net21 net19) R=6.9E5
R60 (net8 net4) R=8.9E6
T61 (net5 net19 net19 0) pfet L=0.75E-6 W=1.07E-6
T62 (net8 net24 net24 0) nfet L=9.76E-6 W=9.42E-6
T63 (net12 net16 net16 0) nfet L=0.65E-6 W=5.56E-6
T64 (net31 net31 net31 0) pfet L=7.11E-6 W=6.48E-6
C65 (net24 net30) C=5.3E-9
R66 (net16 0) R=6.2E5
T67 (vdd! vdd! vdd! 0) nfet L=5.16E-6 W=5.11E-6
C68 (vdd! net8) C=1.5E-5
R69 (net10 net12) R=5.0E1
T70 (net5 net2 net2 0) nfet L=2.35E-6 W=3.37E-6
T71 (net13 net27 net27 0) pfet L=0.10E-6 W=4.85E-6
R72 (net4 0) R=4.8E1
R73 (net6 net30) R=0.6E6
C74 (net15 net31) C=9.1E-11
C75 (net24 0) C=7.2E-11
T76 (net21 net24 net24 0) pfet L=5.24E-6 W=9.54E-6
C77 (net25 net8) C=7.9E-12
C78 (net32 net19) C=1.3E-7
T79 (0 net32 net32 0) nfet L=4.20E-6 W=0.72E-6
T80 (net12 net31 net31 0) pfet L=4.40E-6 W=7.47E-6
T81 (net29 net3 net3 0) pfet L=6.46E-6 W=3.00E-6
C82 (vdd! net26) C=4.4E-5
R83 (net11 net4) R=0.6E0
C84 (net28 net11) C=7.4E-13
C85 (net19 net2) C=8.3E-7
C86 (net29 net17) C=3.5E-5
C87 (net25 net17) C=9.0E-12
T88 (net5 vdd! vdd! 0) pfet L=6.38E-6 W=2.84E-6

