T1 (net28 net3 net3 0) nfet L=2.23E-6 W=5.58E-6
R2 ( net30 net59)  R=0.1E4
T3 ( net59 net59 net86 vdd!)  pfet  L=6.44E-6 W=2.53E-6
T4 ( net86 net56 vdd! vdd!)  pfet  L=6.44E-6 W=2.53E-6
T5 ( net56 net56 vdd! vdd!)  pfet  L=6.44E-6 W=2.53E-6
T6 ( net3 net59 net56 vdd!)  pfet  L=6.44E-6 W=2.53E-6
R7 (net79 net83) R=1.1E2
T8 ( net21 net21 vdd! vdd!)  pfet  L=4.26E-6 W=0.15E-6
T9 ( net46 net21 vdd! vdd!)  pfet  L=4.26E-6 W=0.15E-6
R10 ( net46 net71)  R=4.0E5
T11 (net51 net70 net70 0) pfet L=3.43E-6 W=2.70E-6
C12 (net36 net67) C=8.1E-10
C13 (net24 0) C=6.7E-7
R14 (net17 net66) R=4.2E0
T15 (net44 vdd! vdd! 0) nfet L=1.18E-6 W=1.37E-6
C16 (net87 0) C=0.6E-9
T17 (net32 net2 net2 0) pfet L=1.88E-6 W=4.86E-6
C18 (net69 net78) C=2.8E-9
R19 (net69 net48) R=6.7E1
R20 (net25 net8) R=3.4E1
C21 (net8 net65) C=4.9E-6
T22 (0 net35 net35 0) pfet L=6.53E-6 W=1.70E-6
T23 (net8 vdd! vdd! 0) nfet L=4.02E-6 W=7.21E-6
C24 (net70 net57) C=6.9E-12
T25 (net4 net44 net44 0) nfet L=1.78E-6 W=7.03E-6
R26 (net51 net1) R=7.3E4
T27 (net4 net38 net38 0) nfet L=7.35E-6 W=8.64E-6
C28 (net10 net39) C=6.2E-9
T29 (net67 net71 net71 0) nfet L=8.44E-6 W=4.10E-6
C30 (net48 0) C=6.7E-6
C31 (vdd! net29) C=0.6E-14
R32 (net20 vdd!) R=6.9E0
C33 (net6 net83) C=3.9E-11
T34 (vdd! net4 net4 0) pfet L=9.76E-6 W=7.31E-6
R35 (net52 vdd!) R=9.7E3
T36 (net44 net28 net28 0) pfet L=9.16E-6 W=6.34E-6
C37 (net64 net51) C=9.8E-5
T38 (net26 net35 net35 0) pfet L=7.67E-6 W=3.97E-6
T39 (net74 net60 net60 0) pfet L=9.02E-6 W=0.31E-6
T40 (0 net54 net54 0) nfet L=2.62E-6 W=0.34E-6
T41 (net47 net27 net27 0) nfet L=3.04E-6 W=0.91E-6
C42 (net77 net9) C=2.4E-6
T43 (net29 net18 net18 0) nfet L=9.12E-6 W=7.74E-6
C44 (net70 net16) C=2.6E-11
C45 (net43 net1) C=3.5E-14
C46 (net44 net85) C=4.9E-6
T47 (net32 net47 net47 0) nfet L=7.00E-6 W=9.21E-6
T48 (net20 net64 net64 0) pfet L=8.07E-6 W=5.88E-6
C49 (net15 net76) C=4.3E-9
T50 (net22 net73 net73 0) nfet L=0.78E-6 W=4.09E-6
T51 (net3 net24 net24 0) pfet L=0.40E-6 W=4.48E-6
C52 (net52 net79) C=1.6E-13
C53 (net37 net2) C=1.7E-14
T54 (net20 net35 net35 0) nfet L=0.52E-6 W=4.60E-6
T55 (net48 net64 net64 0) nfet L=4.10E-6 W=8.17E-6
R56 (net88 net47) R=6.6E2
T57 (net61 net63 net63 0) pfet L=3.26E-6 W=2.35E-6
T58 (net64 net74 net74 0) nfet L=0.68E-6 W=4.22E-6
T59 (net73 net84 net84 0) pfet L=5.93E-6 W=5.88E-6
C60 (net14 net71) C=7.8E-7
T61 (net64 net84 net84 0) nfet L=3.92E-6 W=7.76E-6
T62 (net55 net42 net42 0) nfet L=1.30E-6 W=0.51E-6
T63 (net25 net60 net60 0) nfet L=4.69E-6 W=2.10E-6
T64 (net81 net74 net74 0) pfet L=2.12E-6 W=0.85E-6
R65 (vdd! net41) R=3.8E5
T66 (net12 net10 net10 0) pfet L=8.08E-6 W=5.01E-6
T67 (net61 net82 net82 0) nfet L=6.49E-6 W=2.61E-6
T68 (net83 net22 net22 0) nfet L=1.55E-6 W=9.46E-6
C69 (net71 net20) C=2.6E-5
T70 (net32 net68 net68 0) pfet L=1.07E-6 W=8.60E-6
T71 (0 net73 net73 0) nfet L=1.97E-6 W=2.03E-6
C72 (net42 net51) C=3.4E-12
C73 (net18 net26) C=7.7E-10
T74 (net68 net75 net75 0) pfet L=4.07E-6 W=8.52E-6
C75 (net31 net74) C=1.5E-14
R76 (net28 net2) R=1.7E0
T77 (net52 net3 net3 0) pfet L=7.79E-6 W=4.91E-6
R78 (net13 net9) R=5.3E0
T79 (net26 net32 net32 0) nfet L=0.43E-6 W=1.37E-6
T80 (0 net7 net7 0) pfet L=0.92E-6 W=8.31E-6
T81 (net23 vdd! vdd! 0) nfet L=7.30E-6 W=7.81E-6
C82 (vdd! net7) C=6.1E-6
R83 (net30 net80) R=7.4E1
T84 (net13 net4 net4 0) nfet L=6.90E-6 W=9.78E-6
C85 (net79 0) C=9.0E-6
R86 (net57 net6) R=4.9E6
C87 (net60 net79) C=7.3E-12
T88 (net22 net71 net71 0) pfet L=4.79E-6 W=8.45E-6
C89 (net52 0) C=1.7E-12
R90 (0 net75) R=8.1E6
C91 (net74 net82) C=4.0E-8
C92 (vdd! net77) C=1.2E-6
T93 (vdd! net21 net21 0) pfet L=9.11E-6 W=5.84E-6
T94 (net42 net36 net36 0) nfet L=6.80E-6 W=6.67E-6
T95 (net38 net8 net8 0) nfet L=1.41E-6 W=0.57E-6
T96 (net88 net22 net22 0) nfet L=5.13E-6 W=5.51E-6
T97 (net20 net13 net13 0) nfet L=1.08E-6 W=4.06E-6
T98 (net57 net80 net80 0) nfet L=7.79E-6 W=6.21E-6
C99 (net19 net18) C=8.3E-10
R100 (net69 net19) R=0.9E6
C101 (net60 net39) C=9.4E-12
T102 (net38 net75 net75 0) pfet L=6.96E-6 W=5.92E-6

