R1 ( net6 net9)  R=0.4E2
T2 ( net9 net9 net10 0)  nfet  L=5.07E-6 W=7.41E-6
T3 ( net10 net11 0 0)  nfet  L=5.07E-6 W=7.41E-6
T4 ( net11 net11 0 0)  nfet  L=5.07E-6 W=7.41E-6
T5 ( net6 net9 net11 0)  nfet  L=5.07E-6 W=7.41E-6
T6 (net4 net8 net8 0) pfet L=8.52E-6 W=8.84E-6
T7 (net7 net8 net8 0) pfet L=9.30E-6 W=8.36E-6
T8 ( net6 net6 0 0)  nfet  L=3.89E-6 W=6.67E-6
T9 ( net1 net6 0 0)  nfet  L=3.89E-6 W=6.67E-6
R10 ( net1 net8)  R=2.9E0
C11 (net6 net3) C=0.8E-13
T12 (net4 net8 net8 0) pfet L=5.92E-6 W=4.13E-6
T13 (net2 net8 net8 0) pfet L=9.23E-6 W=4.57E-6
C14 (net3 net4) C=7.0E-6
C15 (net2 net4) C=1.6E-5
T16 (net7 net5 net5 0) pfet L=4.82E-6 W=5.94E-6
R17 (net2 vdd!) R=2.5E0
C18 (net6 net8) C=5.3E-6
T19 (net2 net7 net7 0) nfet L=2.72E-6 W=9.64E-6
R20 (net3 net8) R=9.4E0
T21 (net2 net3 net3 0) pfet L=6.48E-6 W=9.82E-6
T22 (net3 net5 net5 0) pfet L=8.06E-6 W=1.94E-6
R23 (net6 net5) R=2.6E4

