C1 (net19 net20) C=3.2E-8
R2 (net2 net18) R=3.0E1
R3 ( net5 net15)  R=8.5E6
T4 ( net15 net15 net2 vdd!)  pfet  L=3.55E-6 W=7.26E-6
T5 ( net2 net9 vdd! vdd!)  pfet  L=3.55E-6 W=7.26E-6
T6 ( net9 net9 vdd! vdd!)  pfet  L=3.55E-6 W=7.26E-6
T7 ( net16 net15 net9 vdd!)  pfet  L=3.55E-6 W=7.26E-6
T8 (vdd! net22 net22 0) pfet L=2.53E-6 W=8.01E-6
T9 (net5 net17 net17 0) nfet L=6.98E-6 W=2.50E-6
R10 ( net22 net16)  R=7.5E0
T11 ( net16 net1 0 0)  nfet  L=9.26E-6 W=2.77E-6
T12 ( net5 net1 0 0)  nfet  L=9.26E-6 W=2.77E-6
T13 ( net3 net16 net5 0)  nfet  L=9.26E-6 W=2.77E-6
T14 (net3 net17 net17 0) nfet L=8.10E-6 W=7.44E-6
T15 (net11 net7 net7 0) pfet L=3.97E-6 W=4.38E-6
T16 (net18 net11 net11 0) nfet L=2.30E-6 W=2.70E-6
T17 (net12 net12 net12 0) nfet L=8.65E-6 W=4.95E-6
C18 (net13 net3) C=6.0E-8

